Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ yo G3P1 @ 37+0 with sickle cell presented to OB triage with 
bilateral arm pain. 

 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ was unable to localize her pain.  It began the night 
before admission and she noted only mild improvement with 2 
percocet and no improvement with the subsequent two Tylenol #3. 

Of note, she was discharged from ___ ___ after being 
diagnosed with sickle cell pain crisis.  She was seen by 
hematology (___) during that admission who recommended IVF and 
narcotics.  

Her first cervical exam in triage was ___ vertex palpated; 
however, on the next exam she was ___ and was therefore 
admitted to Labor and Delivery for labor.
 
Past Medical History:
PMHx: hemoglobin S/beta thal. The patient had a pain crisis 
after the birth of her first child.
PSH: finger sugery
OBhx: SVD 7# 13 @ term, TAB x 1

 
Social History:
No tobacco, ETOH, drug use. Pt lives in ___ with ___ year old 
daughter, has a boyfriend who is FOB (also father of her older 
child.) Pt. said that she is
trying to keep her distance from the FOB and denies domestic 
violence in this relationship.
Works as ___ at ___ in ___. 

 
Physical Exam:
VS:97.8 83 16 123/87
Gen: Appears very uncomfortable, writhing on bed
Card: RRR
Resp: CTAB
Back: No pain with palpation of spinous processes/ribs
Abd: gravid, soft, NT, EFW 7#
SVE: ___ vertex palpated -> ___ on subsequent exam
Ext: NT to palpation, moving all extremities and able to walk in 
triage
NST: ___ 130, mod var, +accels, no decels
Toco: Flat
TAUS: BPP ___, vertex, AFI 20cm, no placental anomaly
.
ICU physical exam:
VS: Temp: 98.8 BP: 130/79 HR: 127 RR: 25 O2sat 100 4L  
GEN: Young AA female confused, NAD  
HEENT: PERRL, EOMI, anicteric, pale MM, jvd to 3cm below 
clavicle
RESP: R > LLL crackles with good air movement throughout  
CV: Tachy RR, S1 and S2 wnl, no m/r/g  
ABD: nd, +b/s, soft, nt, no masses or hepatosplenomegaly. Firm 
uterus 2 cm below umbilicius
EXT: no c/c/e  
SKIN: no rashes/no jaundice/no splinters  
NEURO: AAOx2 (intermittently to date, remains confused, unable 
to remember her new baby's name.. CN ___ intact. ___ strength 
throughout. No sensory deficits to light touch appreciated. No 
pass-pointing on finger to nose. DTRs difficult to elicit. No 
clonus.

 
Pertinent Results:
___ CT head without contrast
FINDINGS: There is no acute intracranial hemorrhage, large areas 
of edema, 
large masses or mass effect. There is preservation of normal 
gray-white 
matter differentiation. The ventricles and sulci are normal in 
size and 
configuration. Visualized paranasal sinuses and mastoid air 
cells are clear. 
  
IMPRESSION: No acute intracranial process. If continued concern 
for infarct persists, recommend further evaluation with MRI. 
.
___ CTA chest
IMPRESSION: 
No evidence of a pulmonary embolus in the central pulmonary 
arteries. Limited assessment of segmental and subsegmental 
vessels, without direct signs of pulmonary embolism. 
.

 
Brief Hospital Course:
Pre-ICU course:
___ y/o G3P1 female with hemoglobin S/B thal. Recently admitted 
from ___ to ___ on the OB service for pain and ___ pain 
attributed to sickle cell crisis at 36 weeks of pregnancy. She 
was discharged on oxycodone and colace. She was readmitted ___ 
with Bilateral arm pain for 1 day; underwent uncomplicated 
vaginal delivery ___. Since that time she has progressive 
extremity pain attributed to sickle cell crisis. HCT has dropped 
from 30.5 to 18.5, and plt have down from 135 to 81. LFTs have 
had mild AST and ALT elevation. Her pain regimen has gradually 
increased from tylenol # 3 to oxycontin 40mg BID and PCA MSIV 
with 42mg of narcotic from 8am to 5pm. She has also been febrile 
to 102 starting on ___. Infectious w/u included negative chest 
xray, positive UA but cult < 10 K organisms, and negative blood 
culture. She was empirically given CTX for ? 4 doses in the 
periop period. She has had progressive tachycardia in the 
setting of hemolysis. The patient has refused transfusion. 
.
___ she was transfered from OB to HMED. Shortly after arrival 
she was somulent, tachycardic to the 130s, hypotensive to 90/60, 
tachypneic to 30, and desating to 88% on RA. She received 0.4mg 
of narcan with signficiant improvement in BP and MS, but she 
remained disoriented. She was transfered to ___ for further 
management.
.
On arrival she denied significant pain. NO chest or abd pain. 
She is a poor historian and is unable to answer ROS or answer 
why she is admitted to the hospital.
.
ICU / Medical ward course:
A/P:  ___ y/o with sickle/B thal s/p uncomplicated vaginal 
delivery 4 days ago with progress anemia and AMS
.
1. Anemia, likely secondary to sickle cell crisis: consistent 
with hemolysis from sickle cell crisis as manifested by elevated 
total bili, decreased haptoglobin. The lack of significant past 
pain crises is unusual. No evidence of active hemorrhage. The 
patient was tranfused with 4 units total of RBC during her stay. 
She received IV fluids and oxygen. Blood smears and DIC labs 
were all sent. Given the development of a RLL infiltrate and 
altered mental status, consideration was given to complications 
such as acute chest syndrome and stroke. The head CT made stroke 
unlikely, and the patient's chest ___ was not consistent with 
acute chest syndrome.
  
2. Altered Mental Status: Probably multifactorial, but most 
heavily dependent on patient given too much narcotic, especially 
since the somulence partially reversed with Narcan. The patient 
did remain altered for a period of days. Her CT head was 
negative for acute acute pathology. Given fevers, infection may 
have been an additonal possibility, and there was initial 
concern, given the patient's recent history that she may have an 
epidural abscess or encephalitis secondary to the epidural she 
had giving birth. CT head wet read without acute pathology. The 
patient's delirium began to dissipate during her third day in 
the ICU.
.
3. Fevers: The patient had five days of consistent fever. Her 
CXR appeared with new RLL opacity, possibly a HAP vs aspiration 
in the setting of AMS. Postpartum retained products of 
conception or endometritis must be considered, although she has 
no vaginal bleeding or tenderness on palpation of the uterus. UA 
positive but culture negative, ? underdiagnosis of UTI. The 
blood, sputum, urine cultures were all taken and had no growth.  
Abdominal US to look for products of conception vs obvious 
endometritis showed neither. The patient was placed on a course 
of vancomycin and Zosyn to cover for HAP and endometritis. 
.
4. RLL opacity: Fluid vs PNA vs acute chest. Without severe 
hypoxia or chest pain, acute chest less likely. The patient 
received vanco and zosyn, given altered mental status and 
possible aspiration. If the patient had had worsening resp 
status, we would have consulted transfusion medicine for 
exchange transfusion for acute chest syndrome. This was 
unnecessary.
.
5. Elevated LFTs: mild ALT, AST, tbili, LDH elevation. Can be 
consistent with hemolysis. In the setting of mild 
thrombocytopenia (which can be seen with sickle crisis), raises 
concern for HELLP syndrome. However, the patient was without 
preeclampsia, and LFTs expected to be significantly higher in 
HELLP.  Also, definitive therapy is delivery of infant, which 
occured. 
.
6. Hypertension:  She was significantly hypertensive post partum 
on the medical floor requiring carvediolol, lisinopril and lasix 
regimen.  ECHO showed RV pressure/filling overload, EF 45-50% 
and mild RV hypokinesis.  She was without need for O2 and 
ambulating well without tachycardia.  She was referred to 
cardiology appointment outpatient.   BP well controlled on 
discharge with regimen as per discharge meds.  She will have f/u 
BP check soon
.
7. Pending labs at discharge:  HIV antibody test.
.
8. She is discharged home with ___ home eval and BP check.

 
Medications on Admission:
Prenatal vitamins
Tylenol # 3

 
Discharge Medications:
1. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*2*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.  
3. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for Pain.  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain for 7 days.
Disp:*30 Tablet(s)* Refills:*0*
6. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. carvedilol 3.125 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*0*
9. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for Constipation.
Disp:*10 Suppository(s)* Refills:*0*
10. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily) as needed for constipation.
Disp:*10 dose* Refills:*0*
11. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO Q6H 
(every 6 hours) as needed for constipation.
Disp:*1 bottle* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Sickle cell crisis
Spontaneous vaginal delivery
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a sickle cell crisis in the setting of 
your pregnancy, following delivery your sickle crisis improved 
with blood transfusions and pain medications.  You had an 
echocardiogram showing some mild heart strain with 
pressure/volume overload.

You had elevated blood pressure and pitting edema requiring 
medical treatment.  You are being discharged on these 
medications and will have a follow-up blood pressure check with 
your doctors starting ___ this week.  If you have dizziness, 
lightheadedness, please hold these medications and call your 
doctor immediately.

Do not have intercourse until you are seen at your 6 week 
follow-up visit.

Please make your follow up appointments and take your 
medications as prescribed.

Do not drive or operate heavy machinery when taking any of the 
Dilaudid.  Only take this medication for significant pain (and 
only after taking tylenol first) and do not double the dose.  Do 
NOT take this medication if you are tired, sleepy, drousy or 
confused.
 
Followup Instructions:
___